US08629271B2
a) tert-Butyldimethyl(2-(thiophen-3-yl)ethoxy)silane
tert-Butylchlorodimethylsilane (3.88 g) was added to a stirred solution of 2-(thiophen-3-yl)ethanol (3.00 g) and 1H-imidazole (4.78 g) in DMF (30 mL) cooled in ice bath. After 16 h, the reaction mixture was diluted with ethyl acetate (300 mL), washed with water (3×150 mL) and evaporated in vacuo. Purification was by silica gel chromatography eluting with isohexane and then 1:5 ethyl acetate:isohexane, to collect the subtitled compound as an oil. Yield 5.2 g.

reactant | tert-Butylchlorodimethylsilane | 3.88 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 2-(thiophen-3-yl)ethanol | 3.00 g | S1C=C(C=C1)CCO | C6H8OS
reactant | 1H-imidazole | 4.78 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyldimethyl(2-(thiophen-3-yl)ethoxy)silane | C(C)(C)(C)[Si](OCCC1=CSC=C1)(C)C | C12H22OSSi
